US05674891
Substantially the method described in Example 1 is employed for the reaction between 7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]thiophene and butanoic acid, to provide 1-(7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]thiophen-5-yl)-butan-1-one as a colorless oil.

reactant | 7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]thiophene | C(C)(C)(C)C1=CC=CC2=C1SCC2(C)C | C14H20S
reactant | butanoic acid | C(CCC)(=O)O | C4H8O2
product | 1-(7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]thiophen-5-yl)-butan-1-one | C(C)(C)(C)C1=CC(=CC2=C1SCC2(C)C)C(CCC)=O | C18H26OS
